US07253196B2
(1R,4R,5S)-5-(Benzyloxy)bicyclo[2.2.1]heptan-2-one
Silica gel 60 (particle size, 0.040-0.063 mm, CAS # 63231-67-4, from EMD Chemical Inc. 9.0 g) was added to a solution of (1R,2S,4R,5S)-5-(benzyloxy)bicyclo[2.2.1]heptan-2-ol (2.79 g, 12.8 mmol) in anhydrous dichloromethane (60.0 ml). The mixture was cooled to 0° C., and pyridinium chlorochromate (4.40 g, 20.4 mmol) was added. The reaction mixture was warmed to ambient temperature and stirred at this temperature for 5 h. After this time, the mixture was diluted with dichloromethane (60 mL) and then filtered through a pad of Celite. The solvent was removed in vacuo, and the residue was purified by flash column chromatography (0 to 25% of ethyl acetate in hexanes) to give the title compound as a colorless oil.

reactant | (1R,2S,4R,5S)-5-(benzyloxy)bicyclo[2.2.1]heptan-2-ol | 12.8 mmol, 2.79 g | C(C1=CC=CC=C1)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)O | C14H18O2
reactant | pyridinium chlorochromate | 20.4 mmol, 4.40 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 60.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (1R,4R,5S)-5-(Benzyloxy)bicyclo[2.2.1]heptan-2-one | C(C1=CC=CC=C1)O[C@@H]1[C@H]2CC([C@@H](C1)C2)=O | C14H16O2
